US04736051
20 g (0.052 moles) of monooctadecenyl phosphate having a purity of 90% (AV1=165.0, AV2=323.2) was charged into a reactor, to which 58.8 ml of 1N potassium hydroxide aqueous solution was added and agitated at 80° C. to obtain uniform solution, at which the acid value of the reaction system was 40.2. While keeping the reaction system at 80° C., 24.1 g (0.26 moles) of epichlorohydrin was gradually dropped, followed by agitation at the temperature for 6 hours. The acid value of the reaction system was approximately zero, revealing that the reaction rate of the phosphoric monoester was almost 100%. The resulting product was collected by HPLC and the solvent was distilled off under reduced pressure to obtain 16.9 g (yield 67.8%) of potassium octadecenyl 2-hydroxy-3-chloropropyl phosphate.

reactant | monooctadecenyl phosphate | 0.052 moles, 20 g | P(=O)(OC=CCCCCCCCCCCCCCCCC)([O-])[O-]
reactant | potassium hydroxide | 1N, 58.8 ml | [OH-].[K+]
reactant | epichlorohydrin | 0.26 moles, 24.1 g | C(Cl)C1CO1 | C3H5ClO
product | potassium octadecenyl 2-hydroxy-3-chloropropyl phosphate | 16.9 g, yield 67.8% | P(=O)(OC=CCCCCCCCCCCCCCCCC)(OCC(CCl)O)[O-].[K+] | InChI=1S/C21H42ClO5P.K/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-26-28(24,25)27-20-21(23)19-22;/h17-18,21,23H,2-16,19-20H2,1H3,(H,24,25);/q;+1/p-1
